US04208531
Methyl 6-azido-2,3,6-trideoxy-α-D-erythro-hexopyranoside (3.0 g, 16 mmol) in methanol (100 ml) containing acetic anhydride (2 ml) was hydrogenated over 10% palladium-on-charcoal (0.4 g) at room temperature under a pressure of 2.5 atms. for 5 h. The catalyst was filtered off and the filtrate was evaporated to dryness giving a syrupy residue which crystallized upon treatement with ether to yield 3.18 g, 98%. The product was recrystallized from chloroform-ether to give pure methyl 6-acetamido-2,3,6-trideoxy-α-D-erythro-hexopyranoside. M.p.: 117°-118°. [α]546121 -13° (c 1, chloroform).

reactant | Methyl 6-azido-2,3,6-trideoxy-α-D-erythro-hexopyranoside | 16 mmol, 3.0 g | N(=[N+]=[N-])C[C@@H]1[C@H](CC[C@@H](OC)O1)O | C7H13N3O3
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.4 g | [Pd] | Pd
product | methyl 6-acetamido-2,3,6-trideoxy-α-D-erythro-hexopyranoside | C(C)(=O)NC[C@@H]1[C@H](CC[C@@H](OC)O1)O | C9H17NO4
